US05604181
2-(4,6-Dimethoxypyrimidin-2-yl)-N-methanesulfonyl-2methoxy-2-phenylacetamid
2-Chloro-2-(4,6-dimethoxypyrimidin-2-yl)-N-methanesulfonyl-2-phenylacetamide (0.7 g) was boiled under reflux with sodium methoxide (0.2 g) in methanol (30 ml) for 5 hours. The methanol was evaporated off under vacuum. The residue was treated with ether and the precipitated sodium salt was taken into water. The aqueous solution was washed with ether, fresh ether was added, and the whole was acidified with hydrochloric acid. A white solid crystallised from the ether layer. This was filtered off, washed with water and a little ether, and dried to give 0.47 g of the desired product, mp 155°-7° C.

reactant | 2-Chloro-2-(4,6-dimethoxypyrimidin-2-yl)-N-methanesulfonyl-2-phenylacetamide | 0.7 g | ClC(C(=O)NS(=O)(=O)C)(C1=CC=CC=C1)C1=NC(=CC(=N1)OC)OC | C15H16ClN3O5S
reactant | sodium methoxide | 0.2 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-(4,6-Dimethoxypyrimidin-2-yl)-N-methanesulfonyl-2methoxy-2-phenylacetamid | 0.47 g | COC1=NC(=NC(=C1)OC)C(C(=O)NS(=O)(=O)C)(C1=CC=CC=C1)OC | C16H19N3O6S
